US04602027
A mixture of methyl 3-(1-methyl-3-cyclohexen-1-ylcarbonylamino)-4-oxovalerate (3.4 g), toluene (50 ml) and phosphorus oxychloride (3.5 ml) was refluxed for 3 hours and the solvent was distilled off. Aqueous sodium hydrogen carbonate was added, followed by extraction with ethyl acetate. The ethyl acetate layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off and the oily residue was further distilled under reduced pressure to give methyl 5-methyl-2-(1-methyl-3-cyclohexen-1-yl)-4-oxazoleacetate as an oil; yield 2.5 g (78.1%). Bp 120°-123° C. (0.3 mmHg).

reactant | methyl 3-(1-methyl-3-cyclohexen-1-ylcarbonylamino)-4-oxovalerate | 3.4 g | CC1(CC=CCC1)C(=O)NC(CC(=O)OC)C(C)=O | C14H21NO4
reactant | phosphorus oxychloride | 3.5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 5-methyl-2-(1-methyl-3-cyclohexen-1-yl)-4-oxazoleacetate | CC1=C(N=C(O1)C1(CC=CCC1)C)CC(=O)OC | C14H19NO3
